US04829071
(C) 6-Methanesulphonamido-2-methylquinoline-1-oxide
m-Chloroperbenzoic acid ("MCPBA") (5.2 g) was added portionwise to a solution of 6-methanesulphonamido-2-methyl-quinoline (6 g) in methylene chloride and stirring was continued for 17 hours. The reaction mixture was then diluted with aqueous sodium bicarbonate and the organic layer was separated. The aqueous layer was extracted with methylene chloride. The combined organic layers were washed with aqueous sodium bicarbonate, dried (MgSO4) and evaporated in vacuo to give a solid which was recrystallised from ethanol to give the title compound, yield 1.6 g, m.p. 241°-243°.

reactant | m-Chloroperbenzoic acid | 5.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 6-methanesulphonamido-2-methyl-quinoline | 6 g | CS(=O)(=O)NC=1C=C2C=CC(=NC2=CC1)C | C11H12N2O2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 6-Methanesulphonamido-2-methylquinoline-1-oxide | CS(=O)(=O)NC=1C=C2C=CC(=[N+](C2=CC1)[O-])C | C11H12N2O3S
